US05175158
6,11-Dihydro-11-[[4-[4-(1-piperidinyl)butyl]-1-piperidinyl]-acetyl]-5H-pyrido [2,3-b][1,5]benzodiazepin-5-one
Prepared analogously to Example 1 from 11-(chloroacetyl)-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one and 4-[4-(1-piperidinyl)butyl]piperidine in a yield of 37% of theory.

reactant | 11-(chloroacetyl)-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | ClCC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | 4-[4-(1-piperidinyl)butyl]piperidine | N1(CCCCC1)CCCCC1CCNCC1 | C14H28N2
product | 6,11-Dihydro-11-[[4-[4-(1-piperidinyl)butyl]-1-piperidinyl]-acetyl]-5H-pyrido [2,3-b][1,5]benzodiazepin-5-one | yield of 37% | N1(CCCCC1)CCCCC1CCN(CC1)CC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)C=CC=N2 | C28H37N5O2
